US07173022B2
Ethyl 3-(benzyloxy)-9-bromo-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate.
A mixture intermediate 14, ethyl 3-benzyloxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate, (1.00 g, 3.05 mmol) and sodium acetate (1.50 g) in acetic acid (20 ml) was heated at 120° C. and then treated with a solution of bromine (1.5 g, 9.2 mmol) in acetic acid (5 ml). After 1 h at 120° C., the reaction mixture was cooled and concentrated in vacuo. The residue was diluted with ethyl acetate, washed with water and brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent and chromatography of the residue on silica gel (elution gradient of ethyl acetate in hexane) gave 0.531 g (43% yield) of the title material as a white solid. 1HNMR 400 MHz (CDCl3) δ (ppm): 1.34 (3H, t, J=7.1 Hz, CH3), 2.60 (2H, m, CH2), 4.28 (2H, t, J=7.3 Hz, CH2), 4.38 (2H, q, J=7.1 Hz, OCH2), 5.34 (2H, s, OCH2), 7.05 (1H, t, J=4.8 Hz, CH), 7.3–7.52 (5H, m, aromatics).

reactant | ethyl 3-benzyloxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | 3.05 mmol, 1.00 g | C(C1=CC=CC=C1)OC1=C(N=C2N(C1=O)CCCC2)C(=O)OCC | C18H20N2O4
reactant | sodium acetate | 1.50 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 9.2 mmol, 1.5 g | BrBr | Br2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | Ethyl 3-(benzyloxy)-9-bromo-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | 0.531 g, 43% yield | C(C1=CC=CC=C1)OC1=C(N=C2N(C1=O)CCC=C2Br)C(=O)OCC | C18H17BrN2O4
